US07741327B2
In a Parr shaker bottle was placed (Z)-2-benzyloxycarbonylamino-3-(trans-3-methyl-cyclobutyl)-acrylic acid methyl ester (300 mg, 0.99 mmol), methanol (10 mL) and 10% palladium on activated carbon (60 mg). The mixture was placed on the Parr hydrogenator and charged with 40 psi hydrogen pressure and shaken for 1.5 h. After such time, the catalyst was filtered off through a plug of celite and the filterate concentrated in vacuo to afford 2-amino-3-(trans-3-methyl-cyclobutyl)-propionic acid methyl ester (148 mg, 87%) as a pale yellow oil.

reactant | (Z)-2-benzyloxycarbonylamino-3-(trans-3-methyl-cyclobutyl)-acrylic acid methyl ester | 0.99 mmol, 300 mg | COC(/C(=C/[C@@H]1C[C@H](C1)C)/NC(=O)OCC1=CC=CC=C1)=O | C17H21NO4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on activated carbon | 60 mg | [Pd] | Pd
solvent | methanol | 10 mL | CO | CH4O
product | 2-amino-3-(trans-3-methyl-cyclobutyl)-propionic acid methyl ester | 148 mg, 87% | COC(C(C[C@@H]1C[C@H](C1)C)N)=O | C9H17NO2
